US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 53 using (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid (500 mg), 4-amino-1-triphenylmethylpyrazolo[3,4-b]pyridine (670 mg) synthesized according to a known method and 2-chloro-1-methylpyridinium iodide (496 mg), the objective (S)-4-(tert-butoxycarbonylamino)-N-(1-triphenylmethylpyrazolo[3,4-b]pyridin-4-yl)thiochromane-7-carboxamide (796 mg) was obtained as a pale yellow amorphous solid.

reactant | (S)-4-(tert-butoxycarbonylamino)thiochromane-7-carboxylic acid | 500 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)O | C15H19NO4S
reactant | 4-amino-1-triphenylmethylpyrazolo[3,4-b]pyridine | 670 mg | NC1=C2C(=NC=C1)N(N=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C25H20N4
reactant | 2-chloro-1-methylpyridinium iodide | 496 mg | [I-].ClC1=[N+](C=CC=C1)C
product | (S)-4-(tert-butoxycarbonylamino)-N-(1-triphenylmethylpyrazolo[3,4-b]pyridin-4-yl)thiochromane-7-carboxamide | 796 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)NC1=C2C(=NC=C1)N(N=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C40H37N5O3S
